US07452893B2
Step 3: trans-2-[4-(2-Hydroxy-2-phenyl-ethoxy)-cyclohexyl]-isoindole-1,3-dione
A mixture of 1 g of trans-2-[4-(2-oxo-2-phenyl-ethoxy)-cyclohexyl]-isoindole-1,3-dione and 0.1 g of 10% palladium on carbon in 100 mL of ethanol was stirred under 1 atm. of hydrogen overnight. The catalyst was filtered off and the filtrate concentrated to dryness under reduced pressure. Drying under vacuum gave 1.0 g of product as a white crystalline solid: 1H NMR (400 MHz, CDCl3) 7.8 (m, 2H), 7.65 (t, 1H), 7.4-7.2 (m, 5H), 4.82 (d, 1H), 4.1 (m, 1H), 3.65 (m, 2H), 3.4 (m, 2H), 2.3 (dd, 2H), 2.2 (m, 2H), 1.8 (d, 2H), 1.4 (dd, 2H).

reactant | trans-2-[4-(2-oxo-2-phenyl-ethoxy)-cyclohexyl]-isoindole-1,3-dione | 1 g | O=C(CO[C@@H]1CC[C@H](CC1)N1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C22H21NO4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | trans-2-[4-(2-Hydroxy-2-phenyl-ethoxy)-cyclohexyl]-isoindole-1,3-dione | 1.0 g | OC(CO[C@@H]1CC[C@H](CC1)N1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C22H23NO4
